US04873228
2-Hydroxypyrimidine-4,6-dicarboxylic acid (239 mg. 1.30 mmol) was suspended in acetic acid (17M, 60 ml) at 70° with stirring. Zinc dust (600 mg. 9.17 mmol) was added portionwise over a period of 30 min and the mixture was stirred for 1 h at 70° then cooled to room temperature. A solution of oxalic acid (200 mg. 2.22 mmol) in acetic acid (10 ml) was added and the reaction mixture allowed to stand for 5 h. The mixture was filtered and the filtrate evaporated to dryness. The residue was dissolved in hot water (5 ml), filtered and cooled to 4° to 4 days. 2-Oxo-1,2,3,6-tetrahydropyrimidine-4,6-dicarboxylic acid was obtained as off-white crystals (58 mg, 24%).

reactant | 2-Hydroxypyrimidine-4,6-dicarboxylic acid | 1.30 mmol, 239 mg | OC1=NC(=CC(=N1)C(=O)O)C(=O)O | C6H4N2O5
reactant | oxalic acid | 2.22 mmol, 200 mg | C(C(=O)O)(=O)O | C2H2O4
solvent | acetic acid | 17M, 60 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 9.17 mmol, 600 mg | [Zn] | Zn
product | 2-Oxo-1,2,3,6-tetrahydropyrimidine-4,6-dicarboxylic acid | O=C1NC(C=C(N1)C(=O)O)C(=O)O | C6H6N2O5
